US08735424B2
A solution of 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-ol (1.0 equiv.), diisopropylethylamine (2.0 equiv.), and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.5 equiv.) in NMP (0.23 M) was stirred for 72 hours. The solution was partitioned between EtOAc and Na2CO3(sat.). Upon separation, the organic layer was washed further with Na2CO3(sat.) and NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (50% EtOAc/hexanes eluant) to yield 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl trifluoromethanesulfonate (47%). LC/MS=437.9 (M+H), LC=4.91 min.

reactant | 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-ol | 1.0 equiv. | S1C(=NC=C1)C1=CC=CC(=N1)C=1C=C2C(=CC=NC2=CC1)O | C17H11N3OS
reactant | diisopropylethylamine | 2.0 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.5 equiv. | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | NMP | 0.23 M | CN1CCCC1=O | C5H9NO
product | 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-yl trifluoromethanesulfonate | 47% | FC(S(=O)(=O)OC1=CC=NC2=CC=C(C=C12)C1=NC(=CC=C1)C=1SC=CN1)(F)F | C18H10F3N3O3S2
